US06323235B1
(3-((phenoxyacetylamino)methyl)benzofuran-7-yloxy)acetic acid
Methyl (3-((phenoxyacetylamino)methyl)benzofuran-7-yloxy)acetate (126 mg) was dissolved in methanol (5 ml) and 1N aqueous sodium hydroxide solution (0.5 ml) was added to the obtained solution, followed by stirring the resulting solution at room temperature for 1 hour. To the reaction solution, 1N hydrochloric acid (1 ml) was added and the solution was poured into water layer (30 ml), followed by extracting the resultant twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was recrystallized from cyclohexane/ethyl acetate to obtain the desired compound (108 mg, yield: 89%).

reactant | Methyl (3-((phenoxyacetylamino)methyl)benzofuran-7-yloxy)acetate | 126 mg | O(C1=CC=CC=C1)CC(=O)NCC1=COC2=C1C=CC=C2OCC(=O)OC | C20H19NO6
reactant | sodium hydroxide | 1N, 0.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1 ml | Cl | ClH
reactant | water | 30 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | (3-((phenoxyacetylamino)methyl)benzofuran-7-yloxy)acetic acid | 108 mg, yield: 89% | O(C1=CC=CC=C1)CC(=O)NCC1=COC2=C1C=CC=C2OCC(=O)O | C19H17NO6
